Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with R shoulder pain s/p mechanical fall from standing. She 
ambulates with a walker at baseline (s/p R BKA) and was reaching 
for a bag when she let go of her walker, causing her to fall to 
the ground after losing balance. She landed on her R side. +Head 
strike, no LOC. Otherwise asymptomatic. CT c-spine and head 
negative. 
 
Past Medical History:
PAST MEDICAL HISTORY
- h/o DVT, unknown when  
- DMI on insulin pump. Followed by 
___.  (pump currently off)
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Question of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 

felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents 
- admission in ___ for AMS, ___, complicated by DKA, 
Hypertensive Emergency

PAST SURGICAL HISTORY
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. 
Father - coronary artery disease with MI in her ___, died at age 
___.  

 
Physical Exam:
Admission:
Vitals: 98.2 76 152/59 20 98%  
Right upper extremity:  
Skin intact  
No skin tenting overlying clavicle  
TTP over distal clavicle/shoulder  
+EPL/FPL/DIO (index) fire  
+SILT axillary/radial/median/ulnar nerve distributions  
+Radial pulse  

Discharge:

Vitals: 98.3 144/53 75 18 97% RA
FSG: ___: 64 this AM (peaked at ___ yesterday)
General: well-developed, sitting in the bed, comfortable when 
not moving R arm
HEENT: NC/AT, anicteric sclerae. MMM
Neck: JVP not elevated  
CV: RRR, soft systolic murmur heard throughout precordium  
Lungs: CTAB
Abdomen: soft, NT, mildly distended, NABS    
Ext: RLE s/p BKA with small 2mm scabbed lesion at stump, 
well-healing. RUE with sling in place, bruise posterorly, 
severely restricted range of motion. No edema. Left leg no ttp.  

Neuro: AAOx3, interactive, appropriate, fully oriented at this 
time. moving all extremities though with RUE movement limited by 
pain. CN II-XII grossly intact  
Skin: aside from stump lesion described above no other lesions 
appreciated

 
Pertinent Results:
Admission labs:

___ 10:46PM   ___ PTT-28.6 ___
___ 10:46PM   PLT COUNT-273
___ 10:46PM   NEUTS-65.7 ___ MONOS-7.5 EOS-2.8 
BASOS-0.7
___ 10:46PM   WBC-6.7 RBC-2.78* HGB-8.5* HCT-26.5* MCV-95 
MCH-30.6 MCHC-32.1 RDW-13.9
___ 10:46PM   estGFR-Using this
___ 10:46PM   GLUCOSE-277* UREA N-27* CREAT-1.4* SODIUM-135 
POTASSIUM-4.8 CHLORIDE-100 TOTAL CO2-23 ANION GAP-17
___ 12:44PM URINE  WBCCLUMP-MOD
___ 12:44PM URINE  RBC-26* WBC->182* BACTERIA-FEW 
YEAST-MANY EPI-0
___ 12:44PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 12:44PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 05:30PM   CALCIUM-9.4 PHOSPHATE-3.9 MAGNESIUM-2.1
___ 05:30PM   GLUCOSE-381* UREA N-31* CREAT-1.4* 
SODIUM-126* POTASSIUM-7.7* CHLORIDE-93* TOTAL CO2-22 ANION 
GAP-19
___ 07:54PM   GLUCOSE-390* NA+-130* K+-5.3* CL--94* TCO2-26

Discharge labs:

___ 07:10AM BLOOD WBC-6.0 RBC-2.27* Hgb-7.0* Hct-22.0* 
MCV-97 MCH-31.0 MCHC-31.9 RDW-13.7 Plt ___
___ 07:10AM BLOOD Ret Aut-2.9
___ 07:10AM BLOOD Glucose-56* UreaN-52* Creat-1.4* Na-138 
K-5.3* Cl-102 HCO3-28 AnGap-13
___ 05:25AM BLOOD CK(CPK)-36
___ 07:10AM BLOOD Calcium-8.9 Phos-4.8* Mg-2.1
___ 09:15AM BLOOD VitB12-PND Folate-PND
___ 09:40AM BLOOD Hapto-467*
___ 07:05AM BLOOD calTIBC-203* Ferritn-234* TRF-156*
___ 09:15AM BLOOD Osmolal-297
___ 12:44PM URINE Color-Straw Appear-Hazy Sp ___
___ 12:44PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 12:44PM URINE RBC-26* WBC->182* Bacteri-FEW Yeast-MANY 
Epi-0
___ 04:19PM URINE Hours-RANDOM UreaN-420 Creat-30 Na-78 
K-37 Cl-96 HCO3-LESS THAN 
___ 11:58AM URINE Hours-RANDOM Creat-38 Na-58 K-50 Cl-73 
Phos-29.8

Micro:
___ 12:44 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 12:44PM URINE Color-Straw Appear-Hazy Sp ___
___ 12:44PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 12:44PM URINE RBC-26* WBC->182* Bacteri-FEW Yeast-MANY 
Epi-0
___ 12:44PM URINE ___ Clm-MOD

Imaging:
CT Cspine ___:
FINDINGS:  There is no evidence of acute fracture or 
dislocation.  Similar to 
the prior study there is straightening of the normal cervical 
lordosis, 
potentially this is positional in nature.  There is no 
prevertebral or 
paravertebral soft tissue edema.  The atlantodental interval is 
preserved.  
The dens is normally positioned between the lateral masses of 
C1.  There are 
multilevel degenerative changes with anterior and posterior 
osteophytes at 
multiple levels.  Disc osteophyte complexes cause moderate 
central canal 
narrowing most prominently at C4-C5, C5-C6.  There is severe 
disc height loss 
at C3-C4 through C6-C7.  There is unchanged anterolisthesis of 
C7 on T1 which 
can be accounted for by facet joint hypertrophy at this level.  
A 0.6-cm 
ossific density in the posterior aspect of the central canal at 
C4-C5 is 
unchanged and may represent focal calcification of the 
ligamentum flavum which 
abuts the ventral cord. 
  
The included lung apices are clear.  As in the prior study the 
esophagus is 
patulous at its superior portion. 
  
IMPRESSION:  No evidence of acute fracture or dislocation.  
Multilevel 
degenerative changes as detailed above. 

CT head non-con ___:  
IMPRESSION:  No evidence of acute intracranial abnormality. 

Clavicle Xray ___: IMPRESSION: Acute distal right clavicular 
fracture.  Chronic deformity of the 
right humeral head. 

CXR ___: IMPRESSION:  Acute right clavicular fracture, better 
seen on dedicated images. 
No acute cardiopulmonary process. 

Hip/pelvis Xray ___: FINDINGS:  AP view of the pelvis.  AP and 
lateral views of the proximal and 
distal right femur.  Postoperative changes of left hip 
hemiarthroplasty are 
again seen.  Right femoral intramedullary rod with transfixing 
screws are 
again seen.  There is no evidence of periprosthetic lucency or 
hardware 
fracture.  There is no acute fracture identified.  Pubic 
symphysis and SI 
joints are unremarkable.  Multiple right-sided vascular stents 
are visualized 
in the lower extremity.  Surgical clips project over the right 
groin. 
  
IMPRESSION:  No visualized acute fracture. 

___ ___:
IMPRESSION: 
  
No evidence of DVT in the left lower extremity.  

 
Brief Hospital Course:
___ y/o F with DMI, HTN, prior MI (no stent), PVD s/ BKA, and 
recent hospitalizations admitted for Right clavicular fracture 
s/p fall now with hyperglycemia, HTN, and pyuria. Initially 
admitted to the orthopedic service but transferred to medicine 
for further management. 
  
# Hyperglycemia/DM I: Pt w/ very high sugars in the setting of 
having her glargine held on admission (up to 500s), 
hospitalization, UTI. Lytes w/o e/o DKA. ___ consulted, 
recommended BID glargine and sliding scale (carb counting was 
stopped). Sugars trended down with this adjustment. As her 
insulin sensitivity improves she may require further 
down-titration in her glargine and ISS regimen. Would not 
restart carb-counting until she follows up with ___ (needs to 
be scheduled for within 1 week of discharge from rehab). 
Continue to follow sugars closely at least 4 times per day.  

# HyperK: Pt with Ks>5 throughout hospitalization, baseline ___. 
Down to 5.3 on the day of discharge after lasix. Most likely 
reflects a DM-related type IV RTA (TTKG 6, pos UAG). Does have 
CKD which likely contributes. Insulin resistanc may also have 
contributed. No e/o toxicity on EKGs. Please check her 
electrolytes/chemistries on ___, and every ___ days therafter 
if stable. Discharge K 5.3. While at rehab, can use prn ___ mg 
lasix PO for K>5.5 but would monitor volume status closely and 
use gentle IVF or encourage robust PO intake to compensate for 
associated diuresis. Discharged on a low K diet. Consider renal 
referral if continues to be elevated (also for CKD, see below).
 
# R clavicular fx: Comminuted, traumatic in the setting of fall. 
Per ortho OK to weight bear on it as tolerated, should use a 
sling, nonsurgical. Pain controlled with oxycodone intially but 
developed urinary retention requiring a foley, so methadone was 
increased TID w/ standing Tylenol (QTc's wnl). ___ evaluated and 
recommended rehab. She will have outpt ortho f/u. Her methadone 
should be titrated back to BID dosing as her pain improves. No 
e/o MM on recent lab work. Could consider renal osteodystrophy 
as a contributor (would recommend renal f/u as outpt as below)

# Frequent falls: She has fallen multiple times in the setting 
of s/p BKA with prosthesis on the R, autonomic/peripheral 
neuropathy. She should be given training on strategies to 
prevent falling in the future, and may benefit from a home 
safety eval. Discharged to rehab with walker/prosthesis as 
before.

# UTI: History of Ecoli UTIs ___ to cipro/CTX. Pyuria here, 
urine contaminated. No systemic symptoms or fevers to suggest 
higher grade infxn. No CVA tenderness. Treated initially with 
CTX/cefpodox and transitioned to PO cipro for a 7 day course for 
a complicated UTI.

# Anemia: Discharge hct 22. Hct has been approximately this low 
for the past ___ months. Normocytic. Iron studies c/w chronic 
disease (though home iron was continued). Also has CKD, could be 
contributing. No e/o blood loss or hemolysis.  SPEP negative in 
___. Retic inappropriately low, suggestive of chronic 
inflammation of bone marrow. If continues to be anemic as outpt, 
consider the following heme w/u: EPO level, peripheral smear, 
hematology/nephrology referral. Would transfuse for hct<21. 
 
# ___: Resolved. Baseline Cr 1.4, peaked at 1.8, back to 
baseline with IVF. Pre-renal picture by BUN/Cr, most likely ___ 
osmotic diuresis from very high sugars. s/p IVF, resolved. 
Urinating well, no obstruction. Outpatient followup with 
nephrology recommended (e.g. for EPO, bone disease monitoring 
etc).  

# HTN: BPs have been 130s-170s here. Recent med history notable 
for attempts to titrate off clonidine, holding of lisinopril ___ 
hyperkalemia, and increase in her labetalol dose here back to 
600 BID from 300. Increased her amlodipine to 10 mg and d/c'd 
clonidine. BP with better control on this regimen. As an 
outpatient, given CKD and DM, consider restarting her lisinopril 
if felt that she will tolerate this (but hyperkalemia will 
likely limit this).

# Rales on exam: Pt not dyspneic or hypoxic. No edema on CXR on 
admission. Nml TTE 2 months ago. It was felt that she was 
splinting bc of pain from her fx. She was given IS, as well as 
home tiotropium and albuterol (for COPD).
 
# Intermittent confusion at home: Pt notes episodes of 
intermittent confusion at home, associated with disorientation. 
A+0 x3 here. She did have some microvascular dx on CT head, 
which could argue for vascular dementia. She has known thyroid 
disease on replacement. Consider outpt neuropsych eval. 

# S/p R BKA: Recently had an infected blister at that site but 
looked well-healed on exam. Continued home Plavix. Continued 
home Gabapentin 300 mg PO/NG TID. 

# GI: Has h/o DM gastroparesis. Continued home Reglan, PPI, w/ 
zofran prn.

# Home meds:
- Continued citalopram
- COntinued calcitriol
- COntinue home fexofenadine
- Continue home folic acid
- Continue home iron
- Cont home simvastatin

Transition issues:
- Ortho f/u
- TID methadone dosing should be titrated back to BID as pain 
improves
- ___ followup needs to be scheduled for within 1 week of 
discharge from rehab
- Insulin regimen adjusted by ___ for high sugars (no DKA), 
this may need to be further adjusted as she becomes more insulin 
responsive after recovering from her acute event.
- Previously carb-counted for meals, which was stopped given her 
labile sugars.  This can be restarted at ___ followup. 
Discharged on a sliding scale
- BP regimen adjusted 
- If tolerates, consider restarting lisinopril as outpatient 
given benefit for DM-nephropathy (but hyperkalemia may limit 
this) 
- Needs teaching on fall prevention, consider home safety eval
- For hyperkalemia, please check her electrolytes/chemistries on 
___, and every ___ days therafter if stable. Discharge K 5.3. 

- Can use prn ___ mg lasix PO for K>5.5 but would monitor 
volume status closely and use gentle IVF or encourage robust PO 
intake to compensate for associated diuresis
- Discharge hct 22: Hct's stable over last 2 months. Would check 
hct on ___ times per week to monitor for stability. Transfuse 
for hct<21 (can be done at outpatient transfusion center)
- Pending B12/folate need to be followed up
- Consider the following outpt anemia workup: EPO level, 
peripheral smear, hematology referral 
- Outpatient followup with nephrology recommended (e.g. for EPO, 
bone disease monitoring etc).
  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Gabapentin 300 mg PO TID 
9. Labetalol 600 mg PO BID 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Methadone 5 mg PO BID 
12. Ondansetron 4 mg PO Q6H:PRN nausea 
13. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
14. Ferrous GLUCONATE 324 mg PO BID 
15. Multiple Vitamin-Minerals (multivitamin with minerals) 1 
tablet oral daily 
16. Pantoprazole 40 mg PO Q24H 
17. Restasis (cycloSPORINE) 0.05 % ophthalmic 2 drops to both 
eyes TID 
18. Acetaminophen 650 mg PO Q8H 
19. Metoclopramide 5 mg PO QIDACHS 
20. Senna 2 TAB PO DAILY 
21. Fish Oil (Omega 3) 0 mg PO OCCASIONALLY 
22. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
23. Simvastatin 20 mg PO QPM 
24. CloniDINE 0.05 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Amlodipine 10 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Citalopram 40 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Ferrous GLUCONATE 324 mg PO BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Gabapentin 300 mg PO TID 
10. Labetalol 600 mg PO BID 
11. Metoclopramide 5 mg PO QIDACHS 
12. Ondansetron 4 mg PO Q8H:PRN n/v 
13. Senna 2 TAB PO DAILY 
14. Simvastatin 20 mg PO QPM 
15. Lidocaine 5% Patch 1 PTCH TD QPM 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Cyanocobalamin 1000 mcg PO DAILY 
18. Fish Oil (Omega 3) 0 mg PO OCCASIONALLY 
19. Levothyroxine Sodium 88 mcg PO DAILY 
20. Multiple Vitamin-Minerals (multivitamin with minerals) 1 
tablet oral daily 
21. Pantoprazole 40 mg PO Q24H 
22. Restasis (cycloSPORINE) 0.05 % ophthalmic 2 drops to both 
eyes TID 
23. Acetaminophen 500 mg PO Q6H 
24. Methadone 5 mg PO TID 
25. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
26. Bisacodyl 10 mg PO DAILY:PRN constipation 
27. Polyethylene Glycol 17 g PO DAILY 
hold for loose stools 
28. Enoxaparin Sodium 30 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
29. Glargine 17 Units Breakfast
Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
UTI
Fractured clavicle
DMI
Hypertension
Mechanical fall
Type IV RTA
CKD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
after falling, with a broken clavicle. Your pain was controlled 
with medication and the orthopedists plan to see you as an 
outpatient. You can use your arms to support your weight as your 
are able to tolerate.

You also were found to have a urinary tract infection and were 
treated with a course of antibiotics.

Your diabetes and blood pressure regimens were adjusted.

Please follow up with your appointments as outlined below, and 
once out of rehab, please see your ___ and primary care 
doctors within one week.

Thanks,
 
Followup Instructions:
___